US04900648
(b) Synthesis of 2-mercapto-6-methylcycloheptimidazole
2-Methoxy-5-methyl-2,4,6-cycloheptatrien-1-one (165 g) and 84 g of thiourea were added to 255 g of a 28% sodium methoxide methanol solution, and stirred at room temperature for 30 minutes. Then, 600 ml of methanol was added and acetic acid was added until the pH of the solution becomes around 5. Deposited crystals were collected by filtration, throughly washed with methanol and dried.

reactant | 2-Methoxy-5-methyl-2,4,6-cycloheptatrien-1-one | 165 g | COC=1C(C=CC(=CC1)C)=O | C9H10O2
reactant | thiourea | 84 g | NC(=S)N | CH4N2S
reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | methanol | 600 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-mercapto-6-methylcycloheptimidazole | SC=1N=C2C(N1)=CC=C(C=C2)C | C9H8N2S
